US04241052
5.5 g of D-galactose, 3.8 g of furfurylamine and 3.5 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 23-(1). 6.7 g of 1-(2-chloroethyl)-3-furfuryl-3-(D-galactopyranosyl)urea are thereby obtained as colorless powder.

reactant | D-galactose | 5.5 g | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | furfurylamine | 3.8 g | C(C1=CC=CO1)N | C5H7NO
reactant | 2-chloroethyl isocyanate | 3.5 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-furfuryl-3-(D-galactopyranosyl)urea | 6.7 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CC1=CC=CO1 | C14H21ClN2O7
